US05547858
Brevibacterium lactofermentum ATCC 21420 was inoculated on agar plate medium containing 1% yeast extract, 1% peptone, 0.5% sodium chloride and 0.5% glucose followed by culturing at 31° C. for 24 hours. In 30 Sakaguchi flasks, each having a 500 ml volume, were charged 25 ml each of medium (pH 7.0) composed of 2% sucrose, 0.1% potassium phosphate, 0.04% magnesium sulfate, 0.001% iron sulfate, 0.001% manganese sulfate, 0.4% ammonium acetate, 0.04% tyrosine, 100 μg/l biotin, 100 μg/l vitamin B1 and 0.2% (calculated as total nitrogen) of soybean protein hydrolyzate. After sterilization by heating at 121° C. for 15 minutes, the temperature was lowered to room temperature and one platinum loopful of the cells of Brevibacterium lactofermentum ATCC 21420 previously grown on the agar plate medium was inoculated on the sterilized medium. By shake culturing at 31° C. for 24 hours, a seed culture broth was prepared. In a fermentation tank of 20 liter volume was charged 10 liters of medium (pH 7.0) composed of 10% glucose, 0.15% potassium phosphate, 0.1% magnesium sulfate, 0.001% iron sulfate, 50 μg/l biotin, 2000 μg/l vitamin B1 and 0.08% (calculated as total nitrogen) of soybean protein hydrolyzate. After sterilization by heating at 121° C. for 20 minutes, the temperature was lowered to room temperature and the seed culture broth previously cultured in the flask was added to the medium followed by culturing under conditions: culture temperature at 31° C., controlled pH of 7, aeration amount of 3 vvm, a stirring number of 400 rpm and inner pressure of 0.2 kg/cm2. Immediately before the glucose in the culture broth was consumed, a solution (sterilized) containing 45 g/l of glucose was replenished to the culture tank to control the glucose concentration in the culture broth to always keep it between 1.0 to 2.5%. At and from the time period when the amount of accumulated phenylalanine reached its solubility, a small amount of seed crystals of phenylalanine was added to the culture broth in order to facilitate crystallization of phenylalanine, and a part of the culture broth was aseptically taken out of the system, passed through a small-sized liquid cyclone to isolate the crystals. Then the culture broth was returned to the culture tank. Culture for 80 hours by this method gave 0.21 kg (moisture content of 20%) of a slurry of phenylalanine crystals and 15 liters of the culture broth containing 2.8% phenylalanine. The obtained culture broth was crystallized by concentration. The crystals were isolated and combined with the slurry of crystals obtained during the culture. By repeating dissolution and crystallization three times, 0.41 kg of phenylalanine crystals was obtained in a high purity.

reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | potassium phosphate | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | biotin | OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C10H16N2O3S
reactant | vitamin B1 | CC1=C(SC=[N+]1CC=2C=NC(=NC2N)C)CCO.Cl.[Cl-]
catalyst | iron sulfate | S(=O)(=O)([O-])[O-].[Fe+2]
product | phenylalanine | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
